US07160888B2
Synthesis of 7-{4-[4-(3-Chloro-2-ethyl-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one
In a manner similar to that of other examples above, 1-(3-chloro-2-ethyl-phenyl)-piperazine hydrochloride was coupled by reductive amination to 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde followed by typical workup and purification to give the title compound. MS: APCI: M+1: 443.2 (Exact Mass: 442.21).

reactant | 1-(3-chloro-2-ethyl-phenyl)-piperazine hydrochloride | Cl.ClC=1C(=C(C=CC1)N1CCNCC1)CC
reactant | 4-(7-oxo-5,6,7,8-tetrahydro-[1,8]naphthyridin-2-yloxy)-butyraldehyde | O=C1CCC=2C=CC(=NC2N1)OCCCC=O | C12H14N2O3
product | 7-{4-[4-(3-Chloro-2-ethyl-phenyl)-piperazin-1-yl]-butoxy}-3,4-dihydro-1H-[1,8]naphthyridin-2-one | ClC=1C(=C(C=CC1)N1CCN(CC1)CCCCOC1=CC=C2CCC(NC2=N1)=O)CC | C24H31ClN4O2
